US06906073B2
Preparation of N-{2-[4-(3,4-dichloro-benzyl)-piperazin-1-yl]-phenyl}-2-thiophen-2-yl-acetamide
2-[4-(3,4-dichlorobenzyl)-piperazin-1-yl]-phenylamine (45 mg) was dissolved in a solution of triethylamine in dichloromethane (3 mL, 0.29 M in triethylamine). This solution was added to a test tube containing 2-thiopheneacetyl chloride (50 mg). After standing at ambient temperature for several days, the reaction was directly passed through a small pad of silica and eluted with 10% ethyl acetate in hexanes, then with 50% ethyl acetate in hexanes. Solvent removal left 48.6 mg of the product: MS m/z 459 (M)+.

reactant | 2-[4-(3,4-dichlorobenzyl)-piperazin-1-yl]-phenylamine | 45 mg | ClC=1C=C(CN2CCN(CC2)C2=C(C=CC=C2)N)C=CC1Cl | C17H19Cl2N3
reactant | 2-thiopheneacetyl chloride | 50 mg | S1C(=CC=C1)CC(=O)Cl | C6H5ClOS
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 0.29 M, 3 mL | ClCCl | CH2Cl2
product | N-{2-[4-(3,4-dichloro-benzyl)-piperazin-1-yl]-phenyl}-2-thiophen-2-yl-acetamide | ClC=1C=C(CN2CCN(CC2)C2=C(C=CC=C2)NC(CC=2SC=CC2)=O)C=CC1Cl | C23H23Cl2N3OS
